US04332829
Preparation of Methylthiomethyl Butyrate
This product was prepared according to the procedure described in Example 1, by reacting butyric acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 71°-73° C./12 mm Hg, nD20 1.4521.

reactant | butyric acid | C(CCC)(=O)O | C4H8O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl Butyrate | C(CCC)(=O)OCSC | C6H12O2S
